US08669234B2
4-Methoxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester:
4-Methoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (461 mg, 1.68 mmol) was dissolved in MeOH (17 mL) and LiOH (1 M in H2O, 8.5 mL, 8.5 mmol) was added. After stirring at RT for 5 h, the MeOH was removed under reduced pressure. The aqueous solution was poured into a separatory funnel, diluted with 1 M HCl (9 mL, 9 mmol) and extracted with DCM (3×). The combined organics were dried over MgSO4, filtered and concentrated. The residue was dissolved in MeCN (17 mL) and treated with 2,4′-dibromoacetophenone (514 mg, 1.85 mmol), and triethylamine (0.258 mL, 1.85 mmol). After stirring for 2 h, the solvent was removed and the solid was suspended in EtOAc. The organic layer was washed with saturated aqueous NaHCO3 and brine then dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (15% to 35% EtOAc/Hex) to afford the title compound (746 mg, 97%).

reactant | 4-Methoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1.68 mmol, 461 mg | COC(=O)C1N(CC(C1)COC)C(=O)OC(C)(C)C | C13H23NO5
reactant | LiOH | 8.5 mmol, 1 M, 8.5 mL | [Li+].[OH-]
reactant | HCl | 9 mmol, 1 M, 9 mL | Cl | ClH
reactant | 2,4′-dibromoacetophenone | 1.85 mmol, 514 mg | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | triethylamine | 1.85 mmol, 0.258 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 17 mL | CO | CH4O
product | 4-Methoxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester | 746 mg, 97% | C(C)(C)(C)OC(=O)N1C(CC(C1)COC)C(=O)OCC(=O)C1=CC=C(C=C1)Br | C20H26BrNO6
